US04940710
7-[3-(5-Bromo-2-thienyl)-4-methyl-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 150 mg portion of 7-[3-(5-bromo-2-thienyl)-1piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was dissolved in a mixture of 0.6 ml of 37% formaldehyde and 0.75 ml of glacial acetic acid, heated on a steam bath for 2 hours and then evaporated. The residue was diluted with 3 ml of water, adjusted to pH 7 with 1N sodium hydroxide and the solid collected, giving 120 mg of the desired product, mp 243°-245° C. (dec.).

reactant | 7-[3-(5-bromo-2-thienyl)-1piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | BrC1=CC=C(S1)C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C20H19BrFN3O3S
reactant | formaldehyde | 0.6 ml | C=O | CH2O
solvent | acetic acid | 0.75 ml | C(C)(=O)O | C2H4O2
product | 7-[3-(5-Bromo-2-thienyl)-4-methyl-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 120 mg | BrC1=CC=C(S1)C1CN(CCN1C)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C21H21BrFN3O3S
